US07745438B2
3-benzyloxy-5-fluoro-benzaldehyde
Add n-butyl lithium (35 mL, 1.6M, 55.96 mmol) over 15 minutes to 1-bromo-3-fluoro-5-benzyloxy-benzene (14.30 g, 50.87 mmol) in tetrahydrofuran (300 mL) cooled in a dry ice/acetone bath, maintaining the internal temperature <−70°. Stir 30 minutes and add N,N-dimethylformamide (7.44 g, 101.74 mmol). Stir 30 minutes and remove cold bath. After 1 hour, quench with saturated aqueous ammonium chloride. Wash organic layer with water and saturated aqueous sodium chloride. Dry (sodium sulfate), filter and concentrate to an oil. Purify on 120 g silica gel eluting with 100:0 to 90:10 hexanes:ethyl acetate to give 3.75 g (32%) of the desired compound as an oil.

reactant | n-butyl lithium | 55.96 mmol, 1.6M, 35 mL | C(CCC)[Li]
reactant | 1-bromo-3-fluoro-5-benzyloxy-benzene | 50.87 mmol, 14.30 g | BrC1=CC(=CC(=C1)OCC1=CC=CC=C1)F | C13H10BrFO
reactant | N,N-dimethylformamide | 101.74 mmol, 7.44 g | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 3-benzyloxy-5-fluoro-benzaldehyde | 3.75 g, 32% | C(C1=CC=CC=C1)OC=1C=C(C=O)C=C(C1)F | C14H11FO2
